US09290506B2
Method B. A solution of enantiomerically enhanced (2S,3S)-2,3-bis(benzoyloxy)succinic acid-(R)-(4-(1-(2-cyano-1-cyclopentylethyl)-1H-pyrazol-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)methyl pivalate (1:1; 22, 120 mg, 0.154 mmol) in ethyl acetate (10 mL) and water (5.0 mL) at room temperature was cooled to 12° C. before being treated with 2 N aqueous potassium carbonate solution (K2CO3, 0.39 mL, 0.77 mmol, 5.0 equiv) to adjust pH to 8-9. The two layers were separated, and the aqueous layer was extracted with ethyl acetate (30 mL). The combined organic fractions were washed with 20% aqueous brine (20 mL), dried over magnesium sulfate, filtered and concentrate under reduced pressure to afford enantiomerically enhanced (R)-(4-(1-(2-cyano-1-cyclopentylethyl)-1H-pyrazol-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)methyl pivalate ((R)-21, 55.7 mg, 64.8 mg theoretical, 86% yield) as white solids, which was analyzed by chiral HPLC and found to be in a ratio of 87:13 favoring the desired R-enantiomer. For ((R)-21: 1H NMR (DMSO-d6, 400 MHz) δ ppm 8.84 (s, 1H), 8.78 (s, 1H), 8.39 (s, 1H), 7.74 (d, 1H, J=3.7 Hz,), 7.11 (d, 1H, J=3.8 Hz), 6.23 (s, 2H), 4.53 (ddd, 1H, J=9.9, 9.6, 4.2 Hz), 3.26 (dd, 1H, J=17.4, 9.9 Hz), 3.19 (dd, 1H, J=17.2, 4.3 Hz), 2.41 (m, 1H), 1.87-1.13 (m, 8H), 1.07 (s, 9H); C23H28N6O2 (MW, 420.51), LCMS (EI) m/e 421.4 (M++H).

reactant | (2S,3S)-2,3-bis(benzoyloxy)succinic acid (R)-(4-(1-(2-cyano-1-cyclopentylethyl)-1H-pyrazol-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)methyl pivalate | 0.154 mmol, 120 mg | C(C1=CC=CC=C1)(=O)O[C@H](C(=O)O)[C@@H](C(=O)O)OC(C1=CC=CC=C1)=O.C(C(C)(C)C)(=O)OCN1C=CC2=C1N=CN=C2C=2C=NN(C2)[C@H](CC#N)C2CCCC2
reactant | potassium carbonate | 0.77 mmol, 2 N, 0.39 mL, 5.0 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 5.0 mL | O | H2O
product | (R)-(4-(1-(2-cyano-1-cyclopentylethyl)-1H-pyrazol-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)methyl pivalate | 55.7 mg, 86% yield | C(C(C)(C)C)(=O)OCN1C=CC2=C1N=CN=C2C=2C=NN(C2)[C@H](CC#N)C2CCCC2 | C23H28N6O2
